US08895565B2
Methyl 5-(6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl)-2-furancarboxylate
The method described in Example 23 was repeated except that 4-chloro-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine was used in place of 4-chloro-2,6-dimethyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine and methyl 5-aminomethyl-2-furancarboxylate was used in place of ethyl (4-aminomethyl)benzoate to obtain a target substance. The target substance was subjected to e.g., proton nuclear magnetic resonance spectrometry (1H-NMR) and mass spectrometry (MS) and confirmed as the titled compound. Furthermore, MS measurement result is shown.

reactant | 4-chloro-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | ClC1=NC=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C | C14H8ClF3N2
reactant | methyl 5-aminomethyl-2-furancarboxylate | NCC1=CC=C(O1)C(=O)OC | C7H9NO3
product | Methyl 5-(6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl)-2-furancarboxylate | CC1=C(C(=NC=N1)NCC1=CC=C(O1)C(=O)OC)C#CC1=CC=C(C=C1)C(F)(F)F | C21H16F3N3O3
